US06653471B2
In a round bottom flask are 4-Methylsulfanyl-1-[2-(4-nitro-phenyl)-ethyl]-6,7-dihydro-1H-pyrrolo[3,2-C]pyridine-3-carboxylic acid methyl ester (25.33 mmol), amino acetaldhyde dimethyl acetal (63.32 mmol) and 125 mL MeOH combined (a part “oiled-out” that later went into solution) and stirred at RT for 20 hours. The solvent is evaporated in vacuo yielding 4-(2,2-Dimethoxy-ethylamino)-1-[2-(4-nitro-phenyl)-ethyl]-6,7-dihydro-1H-pyrrolo[3,2-c]pyridine-3-carboxylic acid methyl ester, 11.56 g, as a yellow oil/solid that is used without purification.

reactant | 4-Methylsulfanyl-1-[2-(4-nitro-phenyl)-ethyl]-6,7-dihydro-1H-pyrrolo[3,2-C]pyridine-3-carboxylic acid methyl ester | 25.33 mmol | COC(=O)C1=CN(C2=C1C(=NCC2)SC)CCC2=CC=C(C=C2)[N+](=O)[O-] | C18H19N3O4S
reactant | amino acetaldhyde dimethyl acetal | 63.32 mmol | COC(CN)OC | C4H11NO2
solvent | MeOH | 125 mL | CO | CH4O
product | 4-(2,2-Dimethoxy-ethylamino)-1-[2-(4-nitro-phenyl)-ethyl]-6,7-dihydro-1H-pyrrolo[3,2-c]pyridine-3-carboxylic acid methyl ester | COC(=O)C1=CN(C2=C1C(=NCC2)NCC(OC)OC)CCC2=CC=C(C=C2)[N+](=O)[O-] | C21H26N4O6
